US06436964B1
2-Pyridyl-3-cyclohexyl-butyraldehyde diethyl acetal (650 mg) was dissolved in acetone (10 mL), treated with HCl (a solution of 2.5 mL concentrated HCl and 7.5 mL water) and the reaction was stirred at room temperature overnight. 1N sodium hydroxide (30 mL) was then added and the neutralized reaction mixture was extracted with ethyl acetate (2 times). The organic extracts were combined, dried over anhydrous magnesium sulfate, filtered and concentrated under vacuum to provide 4-cyclohexyl-3-(2-pyridyl)-butyraldehyde (480 mg) as an oil.

reactant | 2-Pyridyl-3-cyclohexyl-butyraldehyde diethyl acetal | 650 mg | C(C)OC(C(C(C)C1CCCCC1)C1=NC=CC=C1)OCC | C19H31NO2
reactant | HCl | Cl | ClH
reactant | HCl | 2.5 mL | Cl | ClH
reactant | water | 7.5 mL | O | H2O
reactant | sodium hydroxide | 1N, 30 mL | [OH-].[Na+]
reactant | acetone | 10 mL | CC(=O)C | C3H6O
product | 4-cyclohexyl-3-(2-pyridyl)-butyraldehyde | 480 mg | C1(CCCCC1)CC(CC=O)C1=NC=CC=C1 | C15H21NO
